US08609656B2
N-(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-2-[2-(2-methoxyethoxy)ethoxy]acetamide (Table 1, Compound No. 109)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and 2-[2-(2-methoxyethoxy)ethoxy]acetyl chloride by using the same method as in Example 107.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | 2-[2-(2-methoxyethoxy)ethoxy]acetyl chloride | COCCOCCOCC(=O)Cl | C7H13ClO4
product | N-(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-2-[2-(2-methoxyethoxy)ethoxy]acetamide | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC(COCCOCCOC)=O)=O)C(F)(F)F | C26H25ClF3N7O5
